US04316877
Preparation of C9 -Extractant From Nonanoic Acid
In similar manner C9, C12, C16 and C18 extractants were prepared at 150° C. from iso-nonanoic, lauric, iso-hexadecanoic and stearic acids respectively. NMR analysis of the C12 extractant revealed that dodecane-1,1,2-triphosphonic acid was a major component of the crude product and that 1-hydroxy-1,1-dodecane diphosphonic acid was absent. When a solution of the crude C12 extractant (10 wt %) in dibutyl butylphosphonate (10 wt %) and kerosene (80 wt %) was shaken with equal volume of 10 M phosphoric acid, the total carbon in the phosphoric acid was 0.01%. The same amount of carbon was found when a 10 wt % kerosene solution of dibutyl butyl phosphonate was used instead. These results indicate that loss of material from the crude C12 extractant during contact with phosphoric acid is negligible. A C12 extractant was also made from lauric acid by reaction at 110° C. for 16 h. The main component of this acid extractant was 1-hydroxy-1,1 -dodecanediphosphonic acid.

reactant | dodecane-1,1,2-triphosphonic acid | C(C(CCCCCCCCCC)P(O)(=O)O)(P(O)(=O)O)P(O)(=O)O | C12H29O9P3
reactant | 1-hydroxy-1,1-dodecane diphosphonic acid | OC(CCCCCCCCCCC)(P(O)(=O)O)P(O)(=O)O | C12H28O7P2
reactant | lauric acid | C(CCCCCCCCCCC)(=O)O | C12H24O2
solvent | dibutyl butylphosphonate | C(CCC)P(OCCCC)(OCCCC)=O | C12H27O3P
solvent | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | phosphoric acid | 10 M | P(O)(O)(O)=O | H3O4P
product | Nonanoic Acid | C(CCCCCCCC)(=O)O | C9H18O2
